US07893304B2
554.1 mg of 2-(12(benzyloxy)dodec-1-ynyl)-1,4-dimethoxybenzene was dissolved in 3 ml of ethanol, 5% palladium-carbon (60 mg) was added to this solution, and this was placed under hydrogen atmosphere. The reaction mixture was stirred for one day at room temperature. The reaction solution was filtered through Celite, and the solvent was distilled off at reduced pressure. Purification of the residue by silica gel chromatography (hexane:ethyl acetate=6:4) gave 12-(2,5-dimethoxyphenyl)dodecan-1-ol as a colorless oil at a 92% yield.

reactant | 2-(12(benzyloxy)dodec-1-ynyl)-1,4-dimethoxybenzene | 554.1 mg | C(C1=CC=CC=C1)OCCCCCCCCCCC#CC1=C(C=CC(=C1)OC)OC | C27H36O3
solvent | ethanol | 3 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 60 mg | [C].[Pd]
product | 12-(2,5-dimethoxyphenyl)dodecan-1-ol | 92% yield | COC1=C(C=C(C=C1)OC)CCCCCCCCCCCCO | C20H34O3
